US07456186B2
Preparation of {8-[4-Fluoro-3-(5-fluoropyrimidin-3-yl)phenyl]-8-[4-(trifluoromethoxy)phenyl]-2,3,4,8-tetrahydroimidazo[1,5-a]pyrimidin-6-yl}amine
A mixture of 8-(3-bromo-4-fluorophenyl)-8-[4-(trifluoromethoxy)phenyl]-2,3,4,8-tetrahydroimidazo[1,5-a]pyrimidin-6-ylamine (0.075 g, 0.159 mmol), 3-fluoro-5-(tributylstannyl)pyridine (0.092 g, 0.239 mmol), and dichlorobis(triphenylphosphine)palladium(II) (0.006 g, 0.008 mmol) in DMF is degassed, heated at 150° C. in a sealed tube for 1.5 h, cooled to room temperature and diluted with ethyl acetate (50 mL) and 5% aqueous LiCl. The reaction mixture is separated. The organic phase is washed with 5% aqueous LiCl, dried over sodium sulfate and concentrated. The resultant residue is purified by flash chromatography (silica, 95:5:0.25 methylene chloride/methanol/concentrated ammonium hydroxide as eluent) to afford the title product as a white solid, 0.043 g (56% yield), mp 94-105° C.; identified by NMR and mass spectral analyses. 1H NMR (300 MHz, CD3OD) 8.56 (d, J=1.3 Hz, 1H), 8.47 (d, J=2.6 Hz, 1H), 7.83 (d, J=9.7 Hz, 1H), 7.54-7.44 (m, 4H), 7.41-7.21 (m, 3H), 3.69 (m, 2H), 3.50 (m, 2H), 1.87 (m, 2H); ESI MS m/z 488 [C24H18F5N5O+H]+;

reactant | 8-(3-bromo-4-fluorophenyl)-8-[4-(trifluoromethoxy)phenyl]-2,3,4,8-tetrahydroimidazo[1,5-a]pyrimidin-6-ylamine | 0.159 mmol, 0.075 g | BrC=1C=C(C=CC1F)C1(N=C(N2C1=NCCC2)N)C2=CC=C(C=C2)OC(F)(F)F | C19H15BrF4N4O
reactant | 3-fluoro-5-(tributylstannyl)pyridine | 0.239 mmol, 0.092 g | FC=1C=NC=C(C1)[Sn](CCCC)(CCCC)CCCC
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.008 mmol, 0.006 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | {8-[4-Fluoro-3-(5-fluoropyrimidin-3-yl)phenyl]-8-[4-(trifluoromethoxy)phenyl]-2,3,4,8-tetrahydroimidazo[1,5-a]pyrimidin-6-yl}amine | 56% yield | FC1=C(C=C(C=C1)C1(N=C(N2C1=NCCC2)N)C2=CC=C(C=C2)OC(F)(F)F)N2CN=CC(=C2)F | C23H19F5N6O
